US04189595
The mixture of 4.3 g of methyl N-(p-methylbenzyl)-o-(2,6-dichloroanilino)phenylacetate, 8 ml of benzene, 5 ml of ethanol, 8 ml of water and 2.5 g of 98% sodium hydroxide was refluxed for 8 hours under thoroughly stirring. After cooling the reaction mixture, 10% HCl aq. sol. was added to adjust pH 2 to 3 and 30 ml of ether was added and the ether phase was separated. The ether solution was dried over anhydrous sodium sulfate and the solvent was distilled off and the residue was recrystallized from ether-hexane to obtain 3.4 g of N-(p-methylbenzyl)-o-(2,6-dichloroanilino)phenylacetic acid as colorless crystals. Yield: 85%

reactant | methyl N-(p-methylbenzyl)-o-(2,6-dichloroanilino)phenylacetate | 4.3 g | CC1=CC=C(CN(C2=C(C=CC=C2Cl)Cl)C2=C(C=CC=C2)CC(=O)OC)C=C1 | C23H21Cl2NO2
reactant | benzene | 8 ml | C1=CC=CC=C1 | C6H6
reactant | sodium hydroxide | 2.5 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | water | 8 ml | O | H2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | N-(p-methylbenzyl)-o-(2,6-dichloroanilino)phenylacetic acid | 3.4 g, Yield: 85% | CC1=CC=C(CN(C2=C(C=CC=C2Cl)Cl)C2=C(C=CC=C2)CC(=O)O)C=C1 | C22H19Cl2NO2
